US07772244B2
N-(2-Fluoro-6-formylphenyl)pivalamide
N-(2-Bromo-6-fluorophenyl)pivalamide (7.0 g, 25.5 mmol) was dissolved in tetrahydrofuran (200 mL). The mixture was cooled to −78° C., and treated with butyllithium (2 M in cyclohexane, 31.0 mL, 62.0 mmol) dropwise. The reaction mixture was held at −78° C. for 30 minutes. A solution of N,N-dimethylformamide (10.0 mL, 129 mmol) in tetrahydrofuran (30 mL) was added to the reaction mixture dropwise. The reaction was held at −78° C. for 30 minutes and quenched by the addition of aqueous ammonium chloride. The mixture was allowed to warm to room temperature and extracted with ethyl acetate (2×). The combined organic layers were dried (magnesium sulfate), filtered, and concentrated. Silica gel chromatography afforded the desired product as white solid in 80% yield. 1H NMR (300 MHz, CDCl3): δ 9.93 (d, J=1.83, 1H), 9.14 (bs, 1H), 7.56-7.50 (m, 1H), 7.42-7.25 (m, 2H), 1.34 (s, 9H). Mass spec.: 224.2 (MH)+.

reactant | N-(2-Bromo-6-fluorophenyl)pivalamide | 25.5 mmol, 7.0 g | BrC1=C(C(=CC=C1)F)NC(C(C)(C)C)=O | C11H13BrFNO
reactant | butyllithium | 62.0 mmol, 2 M, 31.0 mL | C(CCC)[Li]
reactant | N,N-dimethylformamide | 129 mmol, 10.0 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | N-(2-Fluoro-6-formylphenyl)pivalamide | 80% yield | FC1=C(C(=CC=C1)C=O)NC(C(C)(C)C)=O | C12H14FNO2
